US04299943
In an experiment to demonstrate this method, 4.0 g of diethyl-3-cyanopropylphosphonate in 12 ml of carbon tetrachloride, was treated with 5.6 ml of trimethylsilyl iodide. This was cooled to 0° C. and stirred for ten minutes, and allowed to warm to room temperature, forming bis(trimethylsilyl)-3-cyanopropylphosphonate.

reactant | diethyl-3-cyanopropylphosphonate | 4.0 g | C(C)OP(OCC)(=O)CCCC#N | C8H16NO3P
reactant | trimethylsilyl iodide | 5.6 ml | C[Si](C)(C)I | C3H9ISi
solvent | carbon tetrachloride | 12 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | bis(trimethylsilyl)-3-cyanopropylphosphonate | C[Si](C)(C)OP(O[Si](C)(C)C)(=O)CCCC#N | C10H24NO3PSi2
